US05112947
(3) Z-Asn-Ser(Bzl)-D-Pro-Arg(NO2)-OBzl
The desired compound was prepared from 3.0 g of Boc-Ser(Bzl)-D-Pro-Arg(NO2)-OBzl, 10 ml of 4N HCl-AcOEt, 1.2 g of Z-Asn-OH, 0.9 g of HOBt and 0.95 g of DCC in the same manner as in Example 7-(3).

reactant | Boc-Ser(Bzl)-D-Pro-Arg(NO2)-OBzl | 3.0 g | N([C@@H](COCC1=CC=CC=C1)C(=O)N1[C@@H](C(=O)N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)OCC2=CC=CC=C2)CCC1)C(=O)OC(C)(C)C | C33H45N7O9
reactant | Z-Asn-OH | 1.2 g | N([C@@H](CC(N)=O)C(=O)O)C(=O)OCC1=CC=CC=C1 | C12H14N2O5
reactant | HOBt | 0.9 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 0.95 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | HCl AcOEt | 4N, 10 ml | Cl.CCOC(=O)C
product | Z-Asn-Ser(Bzl)-D-Pro-Arg(NO2)-OBzl | N([C@@H](CC(N)=O)C(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)N1[C@@H](C(=O)N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)OCC2=CC=CC=C2)CCC1)C(=O)OCC1=CC=CC=C1 | C40H49N9O11
